US03987047
2-Acetyl-10-bromo-9-hydroxy-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline
2.5 gm (9.3 millimols) of 2-acetyl-9-hydroxy-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline were dissolved in 60 ml of glacial acetic acid and 12 ml of water, and the solution was brominated at room temperature with a solution of 1.48 gm (9.3 millimols) of bromine in 10 ml of glacial acetic acid. After distilling off the solvent, the residue was dissolved in water, and the solution was adjusted to a pH-value of 7.5 with 2 N sodium hydroxide, whereupon the reaction product crystallized out.

reactant | 2-acetyl-9-hydroxy-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline | 9.3 millimols, 2.5 gm | C(C)(=O)N1CC=2C(=NC=3C=CC(=CC3C2C)O)CCC1 | C16H18N2O2
reactant | bromine | 9.3 millimols, 1.48 gm | BrBr | Br2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | 12 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-Acetyl-10-bromo-9-hydroxy-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline | C(C)(=O)N1CC=2C(=NC=3C=CC(=C(C3C2C)Br)O)CCC1 | C16H17BrN2O2
